US07667041B2
Synthesis of (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid (6-fluoro-5-morpholin-4-ylindan-1-yl)amide
IPEA (165 μL), EDC (90.9 mg) and HOBT (64.0 mg) were sequentially added to a solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate (138 mg) and 6-fluoro-5-morpholin-4-ylindan-1-ylamine (56.0 mg) in DMF (3.0 mL), and the reaction solution was stirred at room temperature for 1 hour. After confirming that the raw materials disappeared, the solvent was concentrated under reduced pressure, and water and ethyl acetate were added to the residue and the organic layer was partitioned. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (elution solvent:heptane-ethyl acetate system, ethyl acetate-methanol system) to obtain 123 mg of the title compound. The physical properties of the compound are as follows.

reactant | IPEA | 165 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 64.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate | 138 mg | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | 6-fluoro-5-morpholin-4-ylindan-1-ylamine | 56.0 mg | FC1=C(C=C2CCC(C2=C1)N)N1CCOCC1 | C13H17FN2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | EDC | 90.9 mg
product | (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid (6-fluoro-5-morpholin-4-ylindan-1-yl)amide | 123 mg | FC1=C(C=C2CCC(C2=C1)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)N1CCOCC1 | C30H34ClFN4O3
